US07538112B2
Step 10: 8-(4-Fluorobenzyl)-10-hydroxy-2,4-dimethyl-7,8-dihydropyrazino-[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione
A mixture of ethyl 6-acetyl-2-(4-fluorobenzyl)-8-hydroxy-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]-pyrazine-7-carboxylate (75 mg, 0.2 mmol), methylhydrazine (46 mg, 1 mmol), and a drop of acetic acid in ethanol (4 mL) was heated in a sealed tube at 105° C. overnight. The product mixture was concentrated under vacuum. The residue was recrystallized from methanol to provide the titled product.

reactant | ethyl 6-acetyl-2-(4-fluorobenzyl)-8-hydroxy-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]-pyrazine-7-carboxylate | 0.2 mmol, 75 mg | C(C)(=O)C1=C(C(=C2N1CCN(C2=O)CC2=CC=C(C=C2)F)O)C(=O)OCC | C19H19FN2O5
reactant | methylhydrazine | 1 mmol, 46 mg | CNN | CH6N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 8-(4-Fluorobenzyl)-10-hydroxy-2,4-dimethyl-7,8-dihydropyrazino-[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | FC1=CC=C(CN2C(C3=C(C4=C(C(=NN(C4=O)C)C)N3CC2)O)=O)C=C1 | C18H17FN4O3
